US07834031B2
2,6-Dichloro-N-{(1S)-1-[1-(propylsulfonyl)-4-pyridin-2-ylpiperidin-4-yl]ethyl}benzamide
A solution of {(1S)-1-[1-(propylsulfonyl)-4-pyridin-2-ylpiperidin-4-yl]ethyl}amine (80 mg, 0.26 mmol) in DMF (0.7 mL) was treated with i-Pr2NEt (0.2 mL, 1.15 mmol) and 2,6-dichloro-benzoyl chloride (0.15 mL, 0.8 mmol) and stirred at room temperature for 30 min. The reaction mixture was purified directly by reverse phase HPLC to afford the desired product.

reactant | {(1S)-1-[1-(propylsulfonyl)-4-pyridin-2-ylpiperidin-4-yl]ethyl}amine | 0.26 mmol, 80 mg | C(CC)S(=O)(=O)N1CCC(CC1)(C1=NC=CC=C1)[C@H](C)N | C15H25N3O2S
reactant | i-Pr2NEt | 1.15 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,6-dichloro-benzoyl chloride | 0.8 mmol, 0.15 mL | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 2,6-Dichloro-N-{(1S)-1-[1-(propylsulfonyl)-4-pyridin-2-ylpiperidin-4-yl]ethyl}benzamide | ClC1=C(C(=O)N[C@@H](C)C2(CCN(CC2)S(=O)(=O)CCC)C2=NC=CC=C2)C(=CC=C1)Cl | C22H27Cl2N3O3S
